* C:\Users\aitor\OneDrive\Msc Thesis\Chap2 Voltage clamp\AlternativeTopology\cir\FreqComp_PoleSplit_NoR_NoBias.asc
R3 N003 0 {Rs}
R4 N003 N002 {Ree}
C3 N003 N002 {Ce}
I1 N003 0 I value=0 dc=0 dcvar=0 noise=0
C1 out 0 {Cload}
R1 N002 out {gain}
XU1 0 N001 N002 0 CMOS18ND W={Was} L={Lin} ID={IDas}
XU4 out N001 0 0 CMOS18P W={Wout} L={Lout} ID={IDoutPMOS}
C2 N001 out {Cps}
.lib SLiCAP.lib
* +
* -
* -
.backanno
.end
